US07989442B2
h. (±)-(cis)-7-bromo-8,12-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine
A mixture of acetic acid (80 mL) and hydrogen bromide (48%, 40 mL) was added to methyl (±)-(cis)-(7-bromo-8,12-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)carbamate (38.2 mmol), and the mixture stirred overnight at 100° C. After cooling down the reaction mixture was poured into a cold 1N NaOH solution (pH 9). It was extracted with ethyl acetate and the organic layer was washed with brine, dried (Na2SO4) and the solvent was evaporated under reduced pressure to yield the crude title compound (12.7 g, 87%) which was used without further purification. (m/z)=381+383 (M+H)+.

reactant | hydrogen bromide | 40 mL | Br | BrH
reactant | methyl (±)-(cis)-(7-bromo-8,12-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepin-1-yl)carbamate | 38.2 mmol | BrC1=CC2=C(OC3=C([C@@H]4N2CCC[C@H]4NC(OC)=O)C=CC(=C3)F)C=C1F | C19H17BrF2N2O3
reactant | NaOH | 1N, pH 9 | [OH-].[Na+]
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | (±)-(cis)-7-bromo-8,12-difluoro-1,3,4,14b-tetrahydro-2H-dibenzo[b,f]pyrido[1,2-d][1,4]oxazepine-1-amine | 12.7 g, 87% | BrC1=CC2=C(OC3=C([C@@H]4N2CCC[C@H]4N)C=CC(=C3)F)C=C1F | C17H15BrF2N2O
